US05965740
To a mixture of 0.34 g (0.9 mmol) of 2-[2-(4-chloro-2-methylphenoxymethyl)-α-hydroxybenzyl]-1-methylimidazole, 3 ml of N,N-dimethylformamide and 0.13 ml (1.8 mmol) of ethyl bromide was added 0.05 g (1.3 mmol) of 60% sodium hydride under ice-cooling and stirred at the same temperature for 3 hours. After completion of the reaction, 100 ml of ether was added and washed twice with 80 ml of brine. The ether layer was dried over anhydrous magnesium and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane) to give 2-[2-(4-chloro-2-methylphenoxymethyl)-α-ethoxybenzyl]-1-methylimidazole (0.30 g, 89.9%) as colorless oil.

reactant | 2-[2-(4-chloro-2-methylphenoxymethyl)-α-hydroxybenzyl]-1-methylimidazole | 0.9 mmol, 0.34 g | ClC1=CC(=C(OCC2=C(C(O)C=3N(C=CN3)C)C=CC=C2)C=C1)C | C19H19ClN2O2
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | ethyl bromide | 1.8 mmol, 0.13 ml | C(C)Br | C2H5Br
reactant | sodium hydride | 1.3 mmol, 0.05 g | [H-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-[2-(4-chloro-2-methylphenoxymethyl)-α-ethoxybenzyl]-1-methylimidazole | 0.30 g, 89.9% | ClC1=CC(=C(OCC2=C(C(OCC)C=3N(C=CN3)C)C=CC=C2)C=C1)C | C21H23ClN2O2
